US06211234B1
A stirred solution of benzyl 2-benzyloxy-4-phenylethynylbenzoate (2 g) and 1 N sodium hydroxide (5 mL) in dioxan (80 mL) is heated at reflux for 1 hour. The reaction mixture is evaporated, the residue dissolved in water (6 mL) and the solution washed twice with ethyl acetate (20 mL). The pH of the aqueous phase is adjusted to pH 1 by addition of 2 N hydrochloric acid and resulting solid is filtered and washed well with water to give 2-benzyloxy-4-phenylethynylbenzoic acid (0.6 g), m.p. 125-127° C. [Elemental analysis:- C,80.2; H,4.86%. Calculated:- C,80.5; H,4.91%].

reactant | benzyl 2-benzyloxy-4-phenylethynylbenzoate | 2 g | C(C1=CC=CC=C1)OC1=C(C(=O)OCC2=CC=CC=C2)C=CC(=C1)C#CC1=CC=CC=C1 | C29H22O3
reactant | sodium hydroxide | 1 N, 5 mL | [OH-].[Na+]
solvent | dioxan | 80 mL | O1CCOCC1 | C4H8O2
product | 2-benzyloxy-4-phenylethynylbenzoic acid | 0.6 g | C(C1=CC=CC=C1)OC1=C(C(=O)O)C=CC(=C1)C#CC1=CC=CC=C1 | C22H16O3
